US07923568B2
A solution of 2-benzyl-9a-(2-fluoroethyl)-8,9,9a,10-tetrahydroindeno[2,1-e]indazol-7(2H)-one (3.2 g, 8.88 mmol) in 90 mL of dichloromethane was cooled to −65° C. and a 1M solution of boron tribromide in dichloromethane (27 mL, 27 mmol) was added dropwise during 15 minutes. The reaction mixture was allowed to warm to −5° C. during 30 minutes and was then partitioned between EtOAc and 5% aqueous NaHCO3. The organic phase contained some solid material which was dissolved by addition of dichloromethane and methanol. The organic layer was washed with water and brine and dried over MgSO4. Evaporation under vacuum gave 2-benzyl-9a-(2-bromoethyl)-8,9,9a,10-tetrahydroindeno[2,1-e]indazol-7(2H)-one as an orange solid which was dissolved in THF (175 mL). The resulting solution was cooled to −65° C. and a 0.5M solution of potassium bis(trimethylsilyl)amide in toluene (22 mL, 11 mmol) was added dropwise during 15 minutes. The reaction mixture was allowed to warm to −5° C. during 25 minutes at which point HPLC analysis of an aliquot showed a small amount of unreacted starting material. An additional portion of 0.5M potassium bis(trimethylsilyl)amide in toluene (1 mL, 0.5 mmol) was added and the cooling bath was removed. After 15 minutes more, the reaction was quenched by the addition of 1N HCl (30 mL). The reaction mixture was partitioned between EtOAc and water and the organic phase was washed with 5% aqueous NaHCO3 and brine dried over MgSO4. Concentration of the organic solution under vacuum gave a precipitated solid which was isolated by filtration to give 2-benzyl-2,9,10,11-tetrahydro-8,10a-methanoazuleno[2,1-e]indazol-7(8H)-one. The filtrate was concentrated under vacuum and the residue chromatographed on silica gel (elution with 2:3 to 1:1 EtOAc/hexanes) to yield additional 2-benzyl-2,9,10,11-tetrahydro-8,10a-methanoazuleno[2,1-e]indazol-7(8H)-one as a solid.

reactant | 2-benzyl-9a-(2-fluoroethyl)-8,9,9a,10-tetrahydroindeno[2,1-e]indazol-7(2H)-one | 8.88 mmol, 3.2 g | C(C1=CC=CC=C1)N1N=C2C=CC3=C(C2=C1)CC1(CCC(C=C13)=O)CCF | C23H21FN2O
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 27 mmol, 27 mL | ClCCl | CH2Cl2
product | 2-benzyl-9a-(2-bromoethyl)-8,9,9a,10-tetrahydroindeno[2,1-e]indazol-7(2H)-one | C(C1=CC=CC=C1)N1N=C2C=CC3=C(C2=C1)CC1(CCC(C=C13)=O)CCBr | C23H21BrN2O
